US07750017B2
Step 1. Preparation of {4-[3-Chloro-4-(3-fluoro-benzyloxy)-phenylamino]-benzo[4,5]thieno[2,3-d]pyrimidin-7-yl}-acetic acid
To a stirring solution of {4-[3-chloro-4-(3-fluoro-benzyloxy)-phenylamino]-benzo[4,5]thieno[2,3-d]pyrimidin-7-yl}-acetic acid ethyl ester (400 mg, 0.766 mmol) in THF (10 mL) was added a solution of lithium hydroxide monohydrate (161 mg, 3.83 mmol) in water (3 mL), and the resulting mixture was stirred at rt overnight. The solvent was evaporated, and aq. NaOH (0.2 N, 5 mL) was added to the residue, and the mixture was washed with diethyl ether (2×8 mL). The pH of the aqueous layer was adjusted to 5 by addition of 0.5 N HCl, and it was then extracted with EtOAc (3×25 mL). The combined organic layers were dried (Na2SO4) and concentrated to give the product as a slightly brown solid. (350 mg, 93%). LCMS RT=3.66 min, [M+H]+=494.1.

reactant | {4-[3-chloro-4-(3-fluoro-benzyloxy)-phenylamino]-benzo[4,5]thieno[2,3-d]pyrimidin-7-yl}-acetic acid ethyl ester | 0.766 mmol, 400 mg | C(C)OC(CC1=CC2=C(C3=C(N=CN=C3NC3=CC(=C(C=C3)OCC3=CC(=CC=C3)F)Cl)S2)C=C1)=O | C27H21ClFN3O3S
reactant | lithium hydroxide monohydrate | 3.83 mmol, 161 mg | O.[OH-].[Li+]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | water | 3 mL | O | H2O
product | {4-[3-Chloro-4-(3-fluoro-benzyloxy)-phenylamino]-benzo[4,5]thieno[2,3-d]pyrimidin-7-yl}-acetic acid | ClC=1C=C(C=CC1OCC1=CC(=CC=C1)F)NC=1C2=C(N=CN1)SC1=C2C=CC(=C1)CC(=O)O | C25H17ClFN3O3S
